US04977146
STEP 1B: 3-Methylthio-4-n-propoxy-5-benzyloxybenzaldehyde
64.5 g of 3-methylthio-5-benzyloxy-4-hydroxybenzaldehyde dissolved in a 75 mL of DMF was treated with 50 g of K2CO3 and 32 g of 1-bromopropane and stirred overnight at 70° C. The next day about 1.5 liters of methylene chloride and an equal amount of water was added to the reaction mixture. The organic layer was removed, washed three times with distilled water, dried over MgSO4 and evaporated to yield the title compound as viscous liquid that solidified slowly: NMR(200 MHz, CDCl3) δ 1.02(t, CH2CH2CH3), 1.82(m, CH2CH2CH3), 2.48(s, SCH3), 4.12 (t, OCH2CH2CH3), 5.18(s, OCH2Ar), 7.26-7.52(m, ArH), 9.86(s, ArCHO).

reactant | 3-methylthio-5-benzyloxy-4-hydroxybenzaldehyde | 64.5 g | CSC=1C=C(C=O)C=C(C1O)OCC1=CC=CC=C1 | C15H14O3S
reactant | K2CO3 | 50 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromopropane | 32 g | BrCCC | C3H7Br
reactant | methylene chloride | about 1.5 liters | C(Cl)Cl | CH2Cl2
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-Methylthio-4-n-propoxy-5-benzyloxybenzaldehyde | CSC=1C=C(C=O)C=C(C1OCCC)OCC1=CC=CC=C1 | C18H20O3S
